US09029538B2
4-Chloro-6,7-dimethoxyquinoline (0.40 g, 1.79 mmol, p-nitroaniline (0.414 g, 2.68 mmol) and p-toluenesulfonic acid (0.154 g, 0.894 mmol) in 1-methoxy-2-propanol (5 mL) were heated to 120° C. for 8 h. The mixture was cooled to rt, triturated with ether and filtered to yield (6,7-dimethoxyquinolin-4-yl)-(4-nitrophenyl)amine (0.43 g, 73%). LCMS m/z=326 (M+1); 1H NMR (DMSO) δ: 14.37 (s, 1H), 10.72 (s, 1H), 8.54 (d, 1H, J=6.80 Hz), 8.39 (d, 2H, J=9.08 Hz), 8.05 (s, 1H), 7.74 (d, 2H, J=9.09 Hz), 7.47 (d, 1H, 8.13 Hz), 7.43 (s, 1H), 7.19 (d, 1H, J=6.85), 7.10 (d, 1H, J=7.84), 4.02 (d, 7H, J=5.48), 2.28, (s, 1H).

reactant | 4-Chloro-6,7-dimethoxyquinoline | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | p-nitroaniline | 2.68 mmol, 0.414 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | p-toluenesulfonic acid | 0.894 mmol, 0.154 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | 1-methoxy-2-propanol | 5 mL | COCC(C)O | C4H10O2
product | (6,7-dimethoxyquinolin-4-yl)-(4-nitrophenyl)amine | 0.43 g, 73% | COC=1C=C2C(=CC=NC2=CC1OC)NC1=CC=C(C=C1)[N+](=O)[O-] | C17H15N3O4
